US07648991B2
Synthesis of 3,3-dimethylpiperazin-2-one
Potassium carbonate (390 grams) and ethylene diamine (1001 grams) are stirred with toluene (1.50 l). A solution of ethyl 2-bromoisobutyrate (500 grams) in toluene (750 ml) is added. The suspension is heated to reflux over night, and filtered. The filter cake is washed with toluene (500 ml). The combined filtrates (volume 4.0 l) are heated on a water bath and distilled at 0.3 atm. using a Claisen apparatus; first 1200 ml distillate is collected at 35° C. (the temperature in the mixture is 75° C.). More toluene is added (600 ml), and another 1200 ml distillate is collected at 76° C. (the temperature in the mixture is 80° C.). Toluene (750 ml) is added again, and 1100 ml of distillate is collected at 66° C. (temperature in the mixture 71° C.). The mixture is stirred on an ice bath and inoculated, whereby the product precipitates. The product is isolated by filtration, washed with toluene, and dried over night in a vacuum oven at 50° C. Yield 171 g (52%) of 3,3-dimethylpiperazin-2-one. NMR consistent with structure.

reactant | Potassium carbonate | 390 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene diamine | 1001 grams | C(CN)N | C2H8N2
reactant | ethyl 2-bromoisobutyrate | 500 grams | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.50 l | C1(=CC=CC=C1)C | C7H8
product | 3,3-dimethylpiperazin-2-one | CC1(C(NCCN1)=O)C | C6H12N2O
